datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCC[C:11](C)=[CH2:10].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CCC[C+:11](C)[CH2:10][CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F 10,11=10,20"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CC1=CC(C)=C(C(C)C[CH:20]([H:10])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20"
CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:72] 10=20
"CCCCCC[SiH2:11][H:10].COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>CCCCCC[SiH2+:11].COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;20,21=21,22;22,23=23"
"CCC[Si:11](CCC)(CCC)[H:10].C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>CCC[Si+:11](CCC)CCC.C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([H:10])[C:31]1=[O:32] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)[O-:12].CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CC[O:72][C:11]([CH:10]([CH:20]1[N-:21][C:32](OC)=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.[CH2:20]=[CH:21][C:22]#[N:23]>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH2:20][CH:21]=[C:22]=[N-:23])[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=C(F)C(F)=C(F)C(F)=C2F)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)([H:10])C5C1C2C3C54>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[H:10])[O-:23].[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2(CC3=CC=CC=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10]([O:61]C2=CC=CC=C2)([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)O1>>CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C3=CC=CC=C3)C3=CC=CC=C3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C3=CC=CC=C3)C3=CC=CC=C3)[CH:45]=[CH:46]2)O1 10,11=10,20;12=11,12"
"C1C[CH:10]=[CH:11]C1.CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[CH:10]1CCC[CH+:11]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
